US07786165B2
3-{2-fluoro-4-[({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-yl}methyl)amino]phenyl}propanoic acid calcium salt
To a solution of 3-{2-fluoro-4-[({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-yl}methyl)amino]phenyl}propanoic acid (57.0 mg, 0.10 mmol) in methanol (1 mL) was added 1 M aqueous sodium hydroxide solution (0.10 mL). Successively, an aqueous solution of calcium chloride (6.2 mg, 0.05 mmol) was gradually added. The precipitated solid was collected by filtration, washed with water and vacuum dried to give the title compound (32.2 mg, yield 55%) as a colorless amorphous powder.

reactant | 3-{2-fluoro-4-[({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-yl}methyl)amino]phenyl}propanoic acid | 0.10 mmol, 57.0 mg | FC1=C(C=CC(=C1)NCC=1C=C(C(=CC1)C)C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CCC(=O)O | C31H36FNO6S
reactant | sodium hydroxide | 1 M, 0.10 mL | [OH-].[Na+]
reactant | calcium chloride | 0.05 mmol, 6.2 mg | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 1 mL | CO | CH4O
product | 3-{2-fluoro-4-[({4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-yl}methyl)amino]phenyl}propanoic acid calcium salt | 32.2 mg, yield 55% | [Ca+2].FC1=C(C=CC(=C1)NCC=1C=C(C(=CC1)C)C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CCC(=O)[O-].FC1=C(C=CC(=C1)NCC=1C=C(C(=CC1)C)C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CCC(=O)[O-] | InChI=1S/2C31H36FNO6S.Ca/c2*1-20-4-5-23(18-33-25-8-6-24(28(32)17-25)7-9-29(34)35)16-27(20)30-21(2)14-26(15-22(30)3)39-19-31(36)10-12-40(37,38)13-11-31;/h2*4-6,8,14-17,33,36H,7,9-13,18-19H2,1-3H3,(H,34,35);/q;;+2/p-2
